US04888283
5.0 of 2,6-dimethoxybenzoic acid suspended in 200 ml of anhydrous methylene chloride are added with 7.65 ml of triethylamine and then with 3.6 ml of oxalyl chloride. The mixture after being stirred at room temperature for three hours is concentrated under reduced pressure, cooled with ice, added with 10 ml of concentrated ammonia, then stirred for half an hour, then again evaporated under reduced pressure, taken with water and filtered. The solid so obtained, after crystallization from methanol, gives 2,6-dimethoxybenzamide with melting point 208°-209° C.; yield is 54%.

reactant | 2,6-dimethoxybenzoic acid | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | triethylamine | 7.65 ml | C(C)N(CC)CC | C6H15N
reactant | oxalyl chloride | 3.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dimethoxybenzamide | yield is 54% | COC1=C(C(=O)N)C(=CC=C1)OC | C9H11NO3
